data/mechanism_extracts/GreenChem/10.1039_d2gc00960a_si1.json
{"doi": "10.1039_d2gc00960a_si1", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical radical trifluoromethylation/cyclization of N-allylsulfonamides using CF3SO2Na as the CF3 radical source", "mechanism_family": ["radical_anodic", "direct_SET"], "electrochemical_role": "Anodic oxidation of CF3SO2- (Langlois reagent) to generate CF3 radical via loss of SO2; the CF3 radical then adds to the allyl group of the N-allylsulfonamide", "key_intermediates": [{"name": "CF3 radical", "smiles": "[CF3]", "role": "reactive"}, {"name": "carbon-centered radical from CF3 addition to allyl group", "smiles": null, "role": "reactive"}, {"name": "BHT-CF3 adduct (1,3-di-tert-butyl-5-methyl-2-(trifluoromethoxy)benzene-type, 6)", "smiles": null, "role": "off_pathway"}], "electron_flow": "At the anode, CF3SO2Na is oxidized with loss of SO2 to give a CF3 radical, which adds to the alkene of the N-allylsulfonamide to form a carbon radical that undergoes intramolecular cyclization onto the sulfonamide-tethered arene/heteroarene to give the cyclized product after rearomatization.", "rate_determining_step": null, "probe_reagents": [{"name": "BHT", "smiles": "CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C", "purpose": "radical_trap", "observation": "Reaction fully suppressed (no desired product) and BHT-CF3 adduct 6 detected by GC-MS, supporting a CF3 radical intermediate"}, {"name": "crossover substrates (methyl 5-(N-acetyl-N-allylsulfamoyl)thiophene-2-carboxylate and N-allyl-N-((5-chlorothiophen-2-yl)sulfonyl)-4-oxopentanamide)", "smiles": null, "purpose": "other", "observation": "Products 3i (68%) and 3z4 (62%) were obtained with no crossover products, indicating the cyclization is intramolecular"}], "evidence_types_used": ["intermediate_trap_BHT", "crossover"], "evidence_strength": "medium", "notes": "Mechanism inferred from the two control experiments shown (BHT radical quench and crossover). The intramolecular nature of the C-radical cyclization onto the (hetero)arene is supported by the absence of crossover products."}
